US05935963
(S)-[4-[[4-(3-methoxycarbonylguanidino)-benzoylamino]acetyl]-3-[3-[4-(3-methoxycarbonylguanidino)benzoylamino]propyl]-2-oxopiperazin-1-yl]acetic acid hydrochloride
In a mixture of 1,4-dioxane (3.0 ml) and H2O (3.0 ml) was dissolved (S)-[4-[(4-guanidinobenzoylamino)acetyl]-3-[3-(4-guanidino-benzoylamino)propyl]-2-oxopiperazin-1-yl]acetic acid hydrochloride (another name: (S)-4-[(4-guanidinobenzoylamino)acetyl]-3-[3-(4-guanidino-benzoylamino)propyl]-2-oxopiperazine-1-acetic acid hydrochloride) (0.3 g, 0.51 mmol) produced in Working Example 15. To the solution were added gradually, under stirring at 0° C. while keeping the pH at 10 or below, a 2N aqueous solution of sodium hydroxide (2.60 ml, 5.10 mmol) and chlorocarbonic acid methyl ester (0.31 ml, 4.00 mmol). The reaction mixture was stirred for 10 minutes at 0° C., whose pH was adjusted to 4 with a 1N aqueous solution of hydrochloric acid, followed by shaking together with ethyl acetate for extraction. The organic layer was dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure. The concentrate was purified by means of a column chromatography (CHP-20, 10% CH3CNaq-15% CH3CNaq-20% CH3CNaq-25% CH3CNaq-35% CH3CNaq) to give (S)-[4-[[4-(1,3-dimethoxycarbonylguanidino)benzoylamino]acetyl]-3-[3-[4-(1,3-dimethoxycarbonylguanidino)benzoylamino]-propyl]-2-oxopiperazin-1-yl]acetic acid (another name: (S)-4-[[4-(1,3-dimethoxycarbonylguanidino)-benzoylamino]acetyl]-3-[3-[4-(1,3-dimethoxycarbonylguanidino)benzoylamino]-propyl]-2-oxopiperazine-1-acetic acid) (0.26 g, 62% ) as a colorless amorphous powdery product. This product (0.26 g, 0.31 mmol) was dissolved in a mixture of methanol (2.6 ml) and H2O (0.26 ml). To the solution was added, under ice-cooling, lithium hydroxide.1.0hydrate (42 mg, 1.00 mmol). One hour later, the reaction system was adjusted to pH 4 with a 1N aqueous solution of hydrochloric acid, followed by concentration under reduced pressure. The concentrate was purified by means of a column chromatography [(CHP-20, 5% CH3CNaq-10% CH3CNaq-15% CH3CNaq-20% CH3CNaq) and (LH-20, H2O)] to afford the title compound (0.13 g, 58% ) as a colorless amorphous powdery product.

reactant | (S)-4-[[4-(1,3-dimethoxycarbonylguanidino)-benzoylamino]acetyl]-3-[3-[4-(1,3-dimethoxycarbonylguanidino)benzoylamino]-propyl]-2-oxopiperazine-1-acetic acid | COC(=O)N(C(=N)NC(=O)OC)C1=CC=C(C(=O)NCC(=O)N2[C@H](C(N(CC2)CC(=O)O)=O)CCCNC(C2=CC=C(C=C2)N(C(=N)NC(=O)OC)C(=O)OC)=O)C=C1 | C35H42N10O14
reactant | lithium hydroxide | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2.6 ml | CO | CH4O
solvent | H2O | 0.26 ml | O | H2O
product | (S)-[4-[[4-(3-methoxycarbonylguanidino)-benzoylamino]acetyl]-3-[3-[4-(3-methoxycarbonylguanidino)benzoylamino]propyl]-2-oxopiperazin-1-yl]acetic acid hydrochloride | 0.13 g, 58% | Cl.COC(=O)NC(NC1=CC=C(C(=O)NCC(=O)N2[C@H](C(N(CC2)CC(=O)O)=O)CCCNC(C2=CC=C(C=C2)NC(=N)NC(=O)OC)=O)C=C1)=N | InChI=1S/C31H38N10O10.ClH/c1-50-30(48)38-28(32)36-20-9-5-18(6-10-20)25(45)34-13-3-4-22-27(47)40(17-24(43)44)14-15-41(22)23(42)16-35-26(46)19-7-11-21(12-8-19)37-29(33)39-31(49)51-2;/h5-12,22H,3-4,13-17H2,1-2H3,(H,34,45)(H,35,46)(H,43,44)(H3,32,36,38,48)(H3,33,37,39,49);1H/t22-;/m0./s1
